US04536577
Into an Erlenmeyer's flask of 100 ml, 2.00 g (14.6 millimole) of 2-methyl-4-amino-5-formylpyrimidine, 40 g of 20 wt. % ammonia-methanol solution and 2.0 mg of molybdic acid (H2MoO4.H2O) were added, and the mixture was stirred for 2 hours under room temperature, with the flask being closely stoppered. Following subsequently the same procedure as in Example 1, 2-methyl-4-amino-5-aminomethylpyrimidine was obtained at a yield of 93.5%.

reactant | 2-methyl-4-amino-5-formylpyrimidine | 14.6 millimole, 100 ml, 2.00 g | CC1=NC=C(C(=N1)N)C=O | C6H7N3O
reactant | ammonia methanol | N.CO
catalyst | molybdic acid | 2.0 mg | O[Mo](=O)(=O)O
product | 2-methyl-4-amino-5-aminomethylpyrimidine | yield of 93.5% | CC1=NC=C(C(=N1)N)CN | C6H10N4
